US07977331B1
To a suspension of methyl 12-cyclohexyl-4-trifluoromethanesulfonyloxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (130 mg, 0.248 mmol), 3-(1,3,2-dioxaborinan-2-yl)pyridine (53 mg, 0.323 mmol) and sodium hydrogen carbonate (62 mg, 0.744 mmol) in 1,2-dimethoxyethane (2 ml) and water (0.75 ml) was added tetrakis(triphenylphosphine)palladium (16 mg, 0.014 mmol), and the mixture was heated at 90° C. for 3 hr. The reaction mixture was cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The organic layer was successively washed with saturated sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2) to give methyl 12-cyclohexyl-4-(pyridin-3-yl)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (92 mg, yield 82%).

reactant | methyl 12-cyclohexyl-4-trifluoromethanesulfonyloxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.248 mmol, 130 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4OS(=O)(=O)C(F)(F)F)C=C(C=C2)C(=O)OC | C25H24F3NO6S
reactant | 3-(1,3,2-dioxaborinan-2-yl)pyridine | 0.323 mmol, 53 mg | O1B(OCCC1)C=1C=NC=CC1 | C8H10BNO2
reactant | sodium hydrogen carbonate | 0.744 mmol, 62 mg | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | water | 0.75 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 12-cyclohexyl-4-(pyridin-3-yl)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 92 mg, yield 82% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4C=4C=NC=CC4)C=C(C=C2)C(=O)OC | C29H28N2O3
